US07968570B2
A mixture of 4-chloro-2-methyl-benzoic acid (3.40 g, 20 mmol,), N-iodosuccinamide (4.4 g, 22 mmol) and palladium (II) acetate (0.448 g, 2 mmol) in dry DMF (35 mL) was heated at 100° C. for 36 h under nitrogen atmosphere. After this time, the reaction mixture was cooled to ambient temperature and poured into water. The aqueous solution was extracted with ethyl acetate (2×100 mL) and the combined organic extracts were washed with aqueous sodium thiosulphate (30 mL) and brine (30 mL). The organic solution was dried over anhydrous MgSO4, filtered and concentrated to afford 4-chloro-2-iodo-6-methyl-benzoic acid. The product was used without further purification.

reactant | 4-chloro-2-methyl-benzoic acid | 20 mmol, 3.40 g | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
reactant | N-iodosuccinamide | 22 mmol, 4.4 g | INC(CCC(=O)N)=O | C4H7IN2O2
reactant | water | O | H2O
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 2 mmol, 0.448 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-chloro-2-iodo-6-methyl-benzoic acid | ClC1=CC(=C(C(=O)O)C(=C1)C)I | C8H6ClIO2
